### PR TITLE
Algebras for pointed endofunctors and Kelly's transfinite construction

### PR DESCRIPTION
**Pull request by blinkybool**
This is my first contribution to UniMath so feedback is appreciated.

It consists contains the construction of a free algebra for a well-pointed endofunctor and some relationships between well-pointed endofunctors and reflective subcategories.

I did my best to reuse existing definitions, however I haven't used PointedFunctors.v, and instead just have my own `pointed_endofunctor` definition, since I had issues with `F : category_Ptd C` not coercing to a `functor C C`. Using `ptd_obj C` works, but this naming is obscure in my opinion - I would not guess that it's a functor.

I followed `UniMath/CategoryTheory/Monads/MonadAlgebras.v` to implement the definition of the category of algebras for a pointed endofunctor. Everything is much the same, except we have only 1 algebra law, not 2. I'm not sure if I should also be capitalising like `MonadAlg`? Also worth noting is I've called them `pointed_algebras`, which may imply the algebra X has a point (1 --> X) rather than the endofunctor F, but I don't there's a better alternative.

The relationship to reflective subcategories hasn't been made concrete. I use the term `reflective` in comments and the final theorem, but I'm essentially just using a fully-faithful right adjoint in the code.

### CODE REVIEW

**Comment by nmvdw** [comment]
Error:
```
--- checking every proof file is listed in one of the packages ---
error: *** file UniMath/CategoryTheory/PointedFunctorAlgebras.v not listed in appropriate file UniMath/*/.package/files
error: *** 1 unlisted proof files encountered
```

To solve this, you need to list the file `PointedFunctorAlgebras.v` in `CategoryTheory/.package/files`

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 1]
```diff
@@ -0,0 +1,673 @@
...
+  ways of constructing a morphism F c --> F (F c) coincide.
+*)
+Definition well_pointed {C : category} (F : pointed_endofunctor C) : UU
+  := ∏ A : C, point F (F A) =  #F (point F A).
+
+(**
+  Endofunctors, pointed-endofunctors, monads all have associated categories
+  of algebras, consisting of a structure map obeying some subset of the
+  laws for the algebras of a monad. These algebra-categories must be disambiguated,
+  since a monad is a pointed endofunctor is an endofunctor. The terminology
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:78]: > These algebra-categories must be disambiguated, since a monad is a pointed endofunctor is an endofunctor.

I don't follow this sentence.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 2]
```diff
@@ -0,0 +1,673 @@
...
+(* A pointed algebra for a pointed endofunctor is an algebra (a : F X --> X)
+  for the endofunctor which is a retraction of the point map (σ_X · a = id_X)
+*)
+Definition ptd_alg : UU := ∑ X : ptd_alg_data, is_ptd_alg X.
+
+#[reversible=no] Coercion ptd_alg_data_from_ptd_alg (X : ptd_alg) : ptd_alg_data := pr1 X.
+
+Definition make_ptd_alg (X : C) (s : F X --> X) (r : σ X · s = identity X)
+  : ptd_alg
+  := (tpair (λ X, F X --> X) X s,, r).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:107]: Instead of `tpair`, you can also use `,,`, which, I think, is more readable. Would it be possible to write `X ,, s ,, r` here?

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 3]
```diff
@@ -0,0 +1,673 @@
...
+
+#[reversible=no] Coercion mor_from_ptd_alg_mor {X Y : ptd_alg} (f : ptd_alg_mor X Y)
+  : X --> Y := pr1 f.
+
+Definition ptd_alg_mor_commutes {X Y : ptd_alg} (f : ptd_alg_mor X Y)
+  : ptd_alg_map X · f = #F f · ptd_alg_map Y  := pr2 f.
+
+Definition ptd_alg_mor_id (X : ptd_alg) : ptd_alg_mor X X.
+Proof.
+  exists (identity X).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:129]: What about either `use make_ptd_alg` or
```suggestion
  refine (make_ptd_alg (identity X) _).
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 4]
```diff
@@ -0,0 +1,673 @@
...
+  abstract (unfold is_ptd_alg_mor;
+            rewrite functor_id, id_right, id_left;
+            apply idpath).
+Defined.
+
+Definition ptd_alg_mor_comp (X Y Z : ptd_alg) (f : ptd_alg_mor X Y) (g : ptd_alg_mor Y Z)
+  : ptd_alg_mor X Z.
+Proof.
+  exists (f · g).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:138]: Same here. It is better to use `make_ptd_alg`.

**Comment by blinkybool** [comment]
Okay, I could keep squashing these issues but could you confirm first that this should indeed live in a new file and the file name is good? Out of `PointedFunctorAlgebras`, `PointedEndofunctorAlgebras`, `PointedAlgebras`, I picked `PointedFunctorAlgebras` to make it like `FunctorAlgebras`.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 5]
```diff
@@ -0,0 +1,673 @@
...
+            rewrite assoc;
+            rewrite ptd_alg_mor_commutes;
+            rewrite <- assoc;
+            rewrite ptd_alg_mor_commutes;
+            rewrite functor_comp, assoc;
+            apply idpath).
+Defined.
+
+Definition precategory_ptd_alg_ob_mor : precategory_ob_mor
+  := (ptd_alg,, ptd_alg_mor).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:149]: You can use `make_precategory_ob_mor` here

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 6]
```diff
@@ -0,0 +1,673 @@
...
+
+Definition precategory_ptd_alg_data : precategory_data
+  := (precategory_ptd_alg_ob_mor,, ptd_alg_mor_id,, ptd_alg_mor_comp).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:152]: You can use `make_precategory_data` here.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 7]
```diff
@@ -0,0 +1,673 @@
...
+Defined.
+
+Lemma is_precategory_precategory_ptd_alg_data : is_precategory (precategory_ptd_alg_data F).
+Proof.
+  apply make_is_precategory; intros; apply ptd_alg_mor_eq.
+  - apply id_left.
+  - apply id_right.
+  - apply assoc.
+  - apply assoc'.
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:178]:
```suggestion
Qed.
```
It is a bit nicer to use `Qed` here, because you won't use these. In addition, you can use `make_is_precategory_one_assoc` so that you only need to prove one associativity law.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 8]
```diff
@@ -0,0 +1,673 @@
...
+
+Lemma has_homsets_pointed_alegbra : has_homsets ptd_alg_precat.
+Proof.
+  intros X Y.
+  apply (isofhleveltotal2 2).
+  - apply homset_property.
+  - intros f.
+    apply isasetaprop.
+    apply homset_property.
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:190]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 9]
```diff
@@ -0,0 +1,673 @@
...
+
+Definition ptd_alg_category : category := (ptd_alg_precat,, has_homsets_pointed_alegbra).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:192]: You can use `make_category` here.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 10]
```diff
@@ -0,0 +1,673 @@
...
+
+(* The functor which forgets the pointed algebra stucture on the underlying object *)
+Definition forget_ptd_alg : ptd_alg_category ⟶ C.
+Proof.
+  use make_functor.
+  - use make_functor_data.
+    + simpl. exact (ptd_alg_carrier F).
+    + simpl. intros X Y. exact (mor_from_ptd_alg_mor F).
+  - split; red; intros; apply idpath.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:201]:
```suggestion
  - abstract (split; red; intros; apply idpath).
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 11]
```diff
@@ -0,0 +1,673 @@
...
+Definition well_pointed_point_z_iso_at_algebra (X : ptd_alg F) : z_iso X (F X).
+Proof.
+  use make_z_iso.
+  - exact (σ X).
+  - exact (ptd_alg_map F X).
+  - split.
+    (* σ_X ⋅ s = id_X is the axiom for pointed algebras *)
+    + apply ptd_alg_law.
+    (* s · σ_X = id_{FX} follows from naturality + well-pointedness + law for pointed algebras *)
+    + rewrite point_naturality.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:239]: This part can be put in an `abstract`.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 12]
```diff
@@ -0,0 +1,673 @@
...
+Proof.
+  set (point_X_iso := well_pointed_point_z_iso_at_algebra X).
+  apply (pre_comp_with_z_iso_is_inj point_X_iso); simpl.
+  rewrite assoc, assoc.
+  rw_left_comp (ptd_alg_law F X). apply pathsinv0.
+  rw_left_comp (! point_naturality F f).
+  rewrite <- assoc.
+  rw_right_comp (ptd_alg_law F Y).
+  rewrite id_left, id_right; apply idpath.
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:270]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 13]
```diff
@@ -0,0 +1,673 @@
...
+  - intros [a ar].
+    exists (make_ptd_alg F A a ar).
+    apply idpath.
+  - intros [X h].
+    induction h.
+    exists (ptd_alg_map F X).
+    apply ptd_alg_law.
+  - intros [a p]; apply idpath.
+  - intros [X h]; induction h; apply idpath.
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:301]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 14]
```diff
@@ -0,0 +1,673 @@
...
+Context (F_well_pointed : well_pointed F). 
+
+(* Since F is well-pointed, the chain morphisms are all points, i.e. F^i σ = σ F^i *)
+Lemma iter_chain_mor_is_point (i : nat) (A : C) : iter_chain_mor i A = σ ((F ^ i) A).
+Proof.
+  apply pathsinv0.
+  induction i.
+  - exact (idpath _).
+  - exact (F_well_pointed ((F ^ i) A) @ maponpaths (#F) IHi).
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:431]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 15]
```diff
@@ -0,0 +1,673 @@
...
+  rewrite assoc.
+  (* α_A^i · σ_{F^ω A} · s = σ_{F^i A} · F (α_A^i) · s *)
+  rewrite point_naturality.
+  rewrite <- assoc.
+  (* ... = σ_{F^i A} · α_A^(1+i) *)
+  rewrite shift_iter_map_restricts'.
+  simpl. rewrite <- iter_chain_mor_is_point. (* well-pointedness used here! *)
+  (* ... = α_A^i *)
+  apply (colimInCommutes (CC A) i (1+i) (idpath _)).
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:454]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 16]
```diff
@@ -0,0 +1,673 @@
...
+(*
+  The free functor action on morphisms, given by the canonical map between the colimits
+  NOTE: this is the underlying morphism in C, not in the category of algebras
+*)
+Definition free_ptd_alg_mor {A B : C} (f : A --> B)
+  : C ⟦ free_ptd_alg_ob A, free_ptd_alg_ob B ⟧.
+Proof.
+  apply colimOfArrows with (λ i, # (F ^ i) f).
+  intros i _ []; simpl.
+  induction i.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:471]: You can put both cases under induction `i` under an `abstract`.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 17]
```diff
@@ -0,0 +1,673 @@
...
+  apply colimArrowCommutes.
+Defined.
+
+Definition free_ptd_alg_data : functor_data C (ptd_alg_category F).
+Proof.
+  exists free_ptd_alg_ob.
+  intros A B f.
+  exists (free_ptd_alg_mor f).
+
+  apply (colim_mor_eq (F_CC A)); simpl.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:489]: The part below can be made opaque (either via an abstract or a separate lemma that is made `Qed`)

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 18]
```diff
@@ -0,0 +1,673 @@
...
+  simpl.
+  rewrite functor_comp, <- assoc.
+  apply cancel_precomposition.
+  apply pathsinv0, shift_iter_map_restricts.
+Defined.
+
+Definition free_ptd_alg : C ⟶ ptd_alg_category F.
+Proof.
+  apply (make_functor free_ptd_alg_data).
+  split.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:506]: I would recommend making a separate lemma for the functor laws

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 19]
```diff
@@ -0,0 +1,673 @@
...
+End TransfiniteConstruction.
+
+(*
+We've constructed the reflective subcategory given by the pointed algebras
+of a well-pointed endofunctor.
+Conversely, we can take *any* reflective subcategory of C and extract a
+well-pointed endfunctor on C (in fact, an idempotent monad), whose
+pointed algebras form the "same" reflective subcategory.
+*)
+Theorem well_pointed_of_reflective_subcat
```
Comment (nmvdw) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:645]: It is also possible to add argument `(L := left_functor adj)` and `(R := right_functor adj)` to this theorem.  So like this:
```coq
Theorem well_pointed_of_reflective_subcat
               {C D : category} (adj : adjunction C D)
               (L := left_functor adj)
```

**Review by nmvdw — APPROVED** [review]
This is a nice contribution and the code looks quite good! I only have minor comments. 

Generally, it would be good to make more opaque (using `Qed` or abstract), such a proofs that two morphisms `f` and `g` are equal. Such proofs are never computed, and by making them opaque, Coq won't unfold them. This saves memory and could decrease compile time.

In addition, most of the comments are written using `(*`. However, I think those might not be printed using Coqdoc, so it would be better to use `(**`)

**Comment by nmvdw** [comment]
> Okay, I could keep squashing these issues but could you confirm first that this should indeed live in a new file and the file name is good? Out of `PointedFunctorAlgebras`, `PointedEndofunctorAlgebras`, `PointedAlgebras`, I picked `PointedFunctorAlgebras` to make it like `FunctorAlgebras`.

Yes. I think it is a good idea to put it in a new file, and the file name is fitting.

**Comment by nmvdw** [comment]
Error:
```
--- checking that CONTENTS.md is up-to-date ---
test -z "`git diff UniMath/CONTENTS.md`"
make: *** [Makefile:445: check-for-changes-to-CONTENTS.md] Error 1
```
Try deleting `CONTENTS.md` and then using `make`. After this, you can commit and push the file `CONTENTS.md`

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 1 above)
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:78]: It's saying "an X is a Y is a Z", which is just a compact way of saying "an X is a Y and a Y is a Z"

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 20]
```diff
@@ -0,0 +1,673 @@
...
+  apply colim_mor_eq; intros i. do 2 rewrite assoc.
+  rw_left_comp (free_ptd_alg_mor_restricts f i).
+  rewrite <- assoc.
+  rw_right_comp (counit_FF_map_restricts Y i).
+  rewrite (counit_FF_map_restricts X i).
+  set (ɛ := counit_FF_cocone_arrows).
+
+  induction i; simpl. { rewrite id_left. apply id_right. }
+  rewrite assoc. rewrite <- functor_comp.
+  apply (transportb (λ x, # F x · _ = _) IHi).
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:599]: Here again an instance of creative usage of `transportb`

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 21]
```diff
@@ -0,0 +1,673 @@
...
+      set (ɛ := counit_FF_cocone_arrows).
+      induction i; simpl. { apply id_right. }
+      rewrite assoc, <- functor_comp.
+      apply (transportb (λ x, # F x · _ = _) IHi).
+      apply shift_iter_map_restricts.
+    + intro X. simpl. apply (counit_FF_map_restricts X 0).
+Defined.
+
+Corollary are_adjoints_FF : are_adjoints free_ptd_alg (forget_ptd_alg F).
+Proof. exact free_forgetful_adjunction. Defined.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/PointedFunctorAlgebras.v:629]: What is the role of this corollary? It seems to merely repeat the lemma above, right?

**Review by arnoudvanderleer — COMMENTED** [review]
Overall, really nice! Especially for a first PR. However,
 - As Niels pointed out, [there is a lot of things that can be made opaque](https://github.com/UniMath/UniMath/wiki/On-opaqueness)
 - In one or two places, you can use notation for things.
 - It may be nice to use constructors in a couple of places, because that makes the code more resilient against changes in the specific definitions of types.
 - I am curious about your decisions in one or two places.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 2 above)
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:107]: With (X,,s,,r) I get this
```
The term "X,, s,, r" has type "∑ y, ?P y" while it is expected to have type
 "ptd_alg" (cannot unify "ob C" and "ptd_alg_data").
```
and ((X,,s),,r) gives me
```
The term "(X,, s),, r" has type "∑ y, ?P y" while it is expected to have type
 "ptd_alg" (cannot unify "∑ y, C ⟦ F X, y ⟧" and "ptd_alg_data").
```
which is why I used tpair. Is there a fix?

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 3 above)
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:129]: I think you mean make_ptd_alg_mor? (which I'd need to add).
Should I update CategoryTheory/Monads/MonadAlgebras the same way? This code is copy-pasted from there with modifications.

Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:129]: Same is true for the make_precategory_ob_mor and make_precategory_data comment

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 11 above)
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:239]: I've changed this to prove `is_z_isomorphism (σ X)` with a Qed, because this is a key lemma and it'd be a shame to not be able to step through it.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 2 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:107]: Hmm, I didn't expect that. Maybe `tpair` is best, because it fails at some inference.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 3 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:129]: > I think you mean make_ptd_alg_mor? (which I'd need to add). Should I update CategoryTheory/Monads/MonadAlgebras the same way? This code is copy-pasted from there with modifications.

No need. That is not part of this PR.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 22]
```diff
@@ -0,0 +1,673 @@
...
+Proof.
+  apply (nat_trans_ax (point F)).
+Defined.
+
+(*
+  A well-pointed functor (F,,σ) satisfies Fσ = σF, i.e. for every c : C, the two
+  ways of constructing a morphism F c --> F (F c) coincide.
+*)
+Definition well_pointed {C : category} (F : pointed_endofunctor C) : UU
+  := ∏ A : C, point F (F A) =  #F (point F A).
```
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:72]: I just defined it to be easily applicable for how I wanted to use it. Well-pointedness is subsumed by idempotent monads (that's essentially the overall content of this file), which is a monad for which T\eta = \etaT (but there are several equivalent definitions https://ncatlab.org/nlab/show/idempotent+monad). I don't think idempotent monads are defined in UniMath.

If you think the whisker definition is better I'm happy to change it.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 23]
```diff
@@ -0,0 +1,673 @@
...
+
+Definition ptd_alg_mor_commutes {X Y : ptd_alg} (f : ptd_alg_mor X Y)
+  : ptd_alg_map X · f = #F f · ptd_alg_map Y  := pr2 f.
+
+Definition ptd_alg_mor_id (X : ptd_alg) : ptd_alg_mor X X.
+Proof.
+  exists (identity X).
+  abstract (unfold is_ptd_alg_mor;
+            rewrite functor_id, id_right, id_left;
+            apply idpath).
```
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:132]: Other UniMath files with `now` compile fine for me, but whenever I try add it to my own code, it either complains about the comma in the rewrite, or it will say "The reference now was not found in the current environment."
Could you provide a correct usage I could try??

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:107]: Ah, yes, I also ran into this whilst trying whether something would work. `ptd_alg_data` cannot be constructed as a pair, so would it be an idea to make a constructor for that?

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:129]: However, if you want, you can do this in a new PR :innocent:
You'll find that a lot of the code of Unimath is not up to standard anymore. By making sure new code is good, by updating old code when we are working on it and by sometimes doing a "housekeeping sweep", we are trying to improve this.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 22 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:72]: Hm... I can imagine that the whisker version is slightly less applicable in elementary proofs, although I can also imagine that it may be useful when reasoning about abstract functors and natural transformations.
I think I like the whisker version slightly better (because that ties into stuff that I know best), but if one is not familiar with whiskering, it can also be a barrier.
In the end, it is your call. I merely tried to point out that this equality comes from an equality of natural transformations (but you knew that already). If you decide to keep it this way, maybe add a comment that mentions the whiskering?

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 23 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:132]: Oooh, I see what is going wrong.
`now` is in `UniMath.MoreFoundations.Tactics.` If you add an import for that to your file, you can either do
```coq
  abstract (unfold is_ptd_alg_mor; now rewrite functor_id, id_right, id_left).
```
or
```coq
  abstract now (unfold is_ptd_alg_mor; rewrite functor_id, id_right, id_left).
```
I am surprised that so much of your code compiles with just `Foundations.PartD`. In code I am working on, I always automatically add imports for `Foundations.All` and `MoreFoundations.All`, because stuff I use is usually scattered throughout those files.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 24]
```diff
@@ -0,0 +1,673 @@
...
+  exists (free_ptd_alg_mor f).
+
+  apply (colim_mor_eq (F_CC A)); simpl.
+  intros i.
+  rewrite assoc, assoc.
+  rw_left_comp shift_iter_map_restricts.
+  refine (free_ptd_alg_mor_restricts f (S i) @ _).
+  change (colimIn (F_CC A) i) with (# F (colimIn (CC A) i)).
+  rewrite <- functor_comp.
+  apply (transportb (λ x, _ = # F x · _) (free_ptd_alg_mor_restricts f i)).
```
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:496]: It's annoying to use transport and would prefer using rewrite if it wasn't so broken in UniMath (can it be fixed?). I guess you're suggesting to trade the = for an @ and maponpaths. Maybe this is an established pattern but isn't this obviously more complicated to understand (and an extra path induction)? Instead of just rewriting a subterm of an equality, you're turning one equality into another and then concatenating.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 21 above)
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:629]: A refactoring remnant from when the previous lemma was an `adjunction`. Removing it.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 24 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:496]: `rewrite` works the same in UniMath as in normal Coq, and I don't think there is a way to improve it. 

The usage of `maponpaths` is clearer than `transport`, I think. For instance, one can go for something like:
```
etrans.
{
   apply maponpaths.
   apply p.
}
```
This way you can use `maponpaths` to find the right location in the goal and then you apply the path.

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:496]: I think in Unimath it is much more common to use `@` for concatenating paths, and `maponpaths` for making them more specific, than `transportf`, which is used for transporting between types in general.

**Comment by blinkybool** [comment]
@arnoudvanderleer 
> * In one or two places, you can use notation for things.

Could you point out where? I'm not that great at the Notation command.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v [hunk 25]
```diff
@@ -0,0 +1,673 @@
...
+    endofunctor (due to Kelly), and the free-forgetful adjunction.
+
+  - Connnection between well-pointed endofunctors and reflective
+    subcategories (idempotent monads).
+
+References:
+
+* `nLab: transfinite construction of free algebras <https://ncatlab.org/nlab/show/transfinite+construction+of+free+algebras>`_
+* `Max Kelly, A unified treatment of transfinite constructions for free algebras, free monoids, colimits, associated sheaves, and so on <https://www.cambridge.org/core/journals/bulletin-of-the-australian-mathematical-society/article/unified-treatment-of-transfinite-constructions-for-free-algebras-free-monoids-colimits-associated-sheaves-and-so-on/FE2E25E4959E4D8B4DE721718E7F55EE>`_
+******************************************************************)
```
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:21]: Will come back to fix my comments another time.

**Comment by arnoudvanderleer** [comment]
> Could you point out where? I'm not that great at the Notation command.

Oh, no, I meant the things I already pointed out: using existing notation for things. Mostly the `,,` instead of `tpair`.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 24 above)
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:501]: > rewrite works the same in UniMath as in normal Coq, and I don't think there is a way to improve it.

What I meant is that rewrite frequently fails for me, even when I make everything fully explicit. Even when I unhide all the coercions, there are many times when it will say "Found no subterm matching <subterm> in the current goal", when that subterm is obviously there. That's why I made the tactic notations `rw_left_comp` and `rw_right_comp`.

For an example, see `well_pointed_mor_is_algebra_mor` and replace `rw_left_comp (ptd_alg_law F X).` with
```
unfold σ.
Set Printing Coercions.
rewrite (ptd_alg_law F X). (* fails *)
```

Anecdotally, there are times when a rewrite will fail if I put a simpl above it, even when the simpl changes nothing (not even with `Set Printing Coercions.`)

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:501]: I share the experience of coq not recognizing that equal things are equal.
In the example you mention, it seems to be caused by implicit arguments of the coercions :sweat_smile: 
The left hand side of `ptd_alg_law` is
```coq
@compose (precategory_data_from_precategory (category_to_precategory C))
    (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X))
    (@functor_on_objects
       (precategory_ob_mor_from_precategory_data
          (precategory_data_from_precategory (category_to_precategory C)))
       (precategory_ob_mor_from_precategory_data
          (precategory_data_from_precategory (category_to_precategory C)))
       (functor_data_from_functor (precategory_data_from_precategory (category_to_precategory C))
          (precategory_data_from_precategory (category_to_precategory C))
          (@pointed_endofunctor_endofunctor C F))
       (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X)))
    (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X))
    (@nat_trans_data_from_nat_trans_funclass
       (precategory_data_from_precategory (category_to_precategory C))
       (precategory_data_from_precategory (category_to_precategory C))
       (functor_identity_data (precategory_data_from_precategory (category_to_precategory C)))
       (functor_data_from_functor (precategory_data_from_precategory (category_to_precategory C))
          (precategory_data_from_precategory (category_to_precategory C))
          (@pointed_endofunctor_endofunctor C F))
       (@point C F) (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X)))
    (@ptd_alg_map C F (@ptd_alg_data_from_ptd_alg C F X))
```
whereas the goal is
```coq
(@compose (precategory_data_from_precategory (category_to_precategory C))
         (@functor_on_objects
            (precategory_ob_mor_from_precategory_data
               (precategory_data_from_precategory (category_to_precategory C)))
            (precategory_ob_mor_from_precategory_data
               (precategory_data_from_precategory (category_to_precategory C)))
            (functor_data_from_functor
               (precategory_data_from_precategory (category_to_precategory C))
               (precategory_data_from_precategory (category_to_precategory C))
               (functor_identity (precategory_data_from_precategory (category_to_precategory C))))
            (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X)))
         (@functor_on_objects
            (precategory_ob_mor_from_precategory_data
               (precategory_data_from_precategory (category_to_precategory C)))
            (precategory_ob_mor_from_precategory_data
               (precategory_data_from_precategory (category_to_precategory C)))
            (functor_data_from_functor
               (precategory_data_from_precategory (category_to_precategory C))
               (precategory_data_from_precategory (category_to_precategory C))
               (@pointed_endofunctor_endofunctor C F))
            (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X)))
         (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X))
         (@nat_trans_data_from_nat_trans_funclass
            (precategory_data_from_precategory (category_to_precategory C))
            (precategory_data_from_precategory (category_to_precategory C))
            (functor_data_from_functor
               (precategory_data_from_precategory (category_to_precategory C))
               (precategory_data_from_precategory (category_to_precategory C))
               (functor_identity (precategory_data_from_precategory (category_to_precategory C))))
            (functor_data_from_functor
               (precategory_data_from_precategory (category_to_precategory C))
               (precategory_data_from_precategory (category_to_precategory C))
               (@pointed_endofunctor_endofunctor C F))
            (@point C F) (@ptd_alg_carrier C F (@ptd_alg_data_from_ptd_alg C F X)))
         (@ptd_alg_map C F (@ptd_alg_data_from_ptd_alg C F X)))
```

[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:501]: What did you do to print this? I only know about `Set Printing Coercions` and `Unset Printing Notations`.

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:501]: There is also `Set Printing Implicit`. But in this case, I think we need all three of them, and my version of coq won't remember all three at the same time, so I used `Set Printing All` (which I only found out about this morning).
And then manually replaced a couple of parts with `...` for clarity.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 25 above)
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:21]: Is it appropriate to have my name at the top? I see it in some files but not others.

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:21]: This varies throughout the library. Personally, I don't do it, because I think the library should be a collaborative effort, where over time more and more people work on the same files. On the other hand, many people do add their name, which makes sense from an intellectual property point of view, I think.
So it's up to you.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 22 above)
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v]: I changed to the whisker version.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 23 above)
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v]: I made use of `now` and `easy`, but I have to remark that `now` is an odd name. I don't see at all how it suggests what it does.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 24 above)
[the remark this answers is not in the document]
Comment (blinkybool) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:520]: This really takes the "assistant" out of "proof assistant".

Is this a problem outside of UniMath as well, or is it a result of design decisions (like implict args and coercions) that I've made or that exist in the UniMath library? Before now I assumed it was

**Comment by blinkybool** [comment]
I've finished what I wanted to change for now, but I have some leftover concerns.

- Does it matter that I'm not reusing pointed functors from PointedFunctors.v?
- Are names like `counit_FF_adjunction` (and others from that section) okay? I don't have a good understanding of namespacing and how/when to use `Local`, so I'm not sure if such a generally applicable name could cause problems.
- Should I merge recent changes from master, or will someone else do that when they merge the PR?
- If I were to add more to this file (along the same topic), do I make a completely new branch and PR or do I make another PR on the same branch?

**Comment by arnoudvanderleer** [comment]
> * Does it matter that I'm not reusing pointed functors from PointedFunctors.v?

For now, it is fine that you don't. Can you explain a bit why you are not reusing it? (Depending on that, maybe it would be interesting to experiment with reusing PointedFunctors after this branch has been merged)

> * Should I merge recent changes from master, or will someone else do that when they merge the PR?

Please merge them now, so the CI can run and we can merge :-)

> * If I were to add more to this file (along the same topic), do I make a completely new branch and PR or do I make another PR on the same branch?

It's up to you, but probably a new branch (or delete this branch and create a new one with the same name, both locally and on github). This PR is probably going to be squash-merged, so git won't recognize that the commits on this branch are the same as the new merge commit on master. If you try to merge master (with the squashed merge commit) into this branch again, everything you did on this branch is going to give a merge conflict.
So start with a fresh branch (the name is up to you) from master.

Or do a rebase onto master (so tell git "forget commits a ... q on this branch. From now on, the parent of commit r is the squash commit on master"). I did this a couple of times when my PR had not been merged yet, but I needed it for a new branch. I just branched from my PR branch, and when the PR was merged, rebased onto master.

**Comment by blinkybool** [comment]
> For now, it is fine that you don't. Can you explain a bit why you are not reusing it? (Depending on that, maybe it would be interesting to experiment with reusing PointedFunctors after this branch has been merged)

I mentioned it in the first message of this PR. I thought I should just show how I wanted the definition, and was expecting to be told to update PointedFunctors.v with my definition, or something else. I didn't like how my file looked with `category_Ptd C` or `ptd_obj C` in place of `pointed_endofunctor C` and `ptd_pt C F` in place of `point F`. I think that other file was written for a context where the entire category of pointed endofunctors is the focus, rather than one fixed pointed endofunctor.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 23 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v]: Oh, I agree.

**Review by arnoudvanderleer — APPROVED** [review]
Looking good.

**Comment by arnoudvanderleer** [comment]
> * Are names like `counit_FF_adjunction` (and others from that section) okay? I don't have a good understanding of namespacing and how/when to use `Local`, so I'm not sure if such a generally applicable name could cause problems.

Hm... I think in general it is hard to come up with good names (and "good names" is a bit of a subjective idea). Also, I am no expert on namespacing in coq. Personally, I'd prefix things in the section that you mention with the name of the adjunction/construction, so something like `free_ptd_alg_counit` and `free_ptd_alg_unit` (or rather `free_pointed_algebra_counit` and `free_pointed_algebra_unit`. I have a slight dislike for abbreviations, because when chained they have a tendency to become very cryptic). Although there are probably good arguments for and against doing that.

**Comment by arnoudvanderleer** [comment]
> I mentioned it in the first message of this PR. I thought I should just show how I wanted the definition, and was expecting to be told to update PointedFunctors.v with my definition, or something else. I didn't like how my file looked with `category_Ptd C` or `ptd_obj C` in place of `pointed_endofunctor C` and `ptd_pt C F` in place of `point F`. I think that other file was written for a context where the entire category of pointed endofunctors is the focus, rather than one fixed pointed endofunctor.

Ah, I can see what you mean. I just realized that your definitions exactly match those in `PointedFunctors`. In that case, I would propose to merge this PR as it is, although we incur some technical debt with that, and to solve this duplication in a subsequent PR. In that PR, we will let your file reuse as much as possible from PointedFunctors, and potentially renaming a couple of the definitions in `PointedFunctors`.

**Comment by blinkybool** [comment]
I've changed the names in the adjunction section accordingly. Is there some way for me to merge it now or is that for someone with write access to do? Do I need to squash the commits first?

**Comment by nmvdw** [comment]
> I've changed the names in the adjunction section accordingly. Is there some way for me to merge it now or is that for someone with write access to do? Do I need to squash the commits first?

Only those with write access can merge this PR. I didn't have time to pay attention to this PR in the previous days. Is it ready to be merged?

**Comment by blinkybool** [comment]
Yes

**Comment by nmvdw** [comment]
> Yes

Sure. I will merge it today.

File: UniMath/CategoryTheory/PointedFunctorAlgebras.v (hunk 24 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/PointedFunctorAlgebras.v:520]: The only thing that could affect the functionality of rewrite, is that we use iterated sigma types more compared to other libraries. However, I am not sure whether this actually has that effect, and I did no experiments to verify this.

**Comment by blinkybool** [comment]
@nmvdw whoops, looks like I accidentally committed the UniMath.wiki repo at the top level of this repo before you merged.

**Comment by nmvdw** [comment]
> @nmvdw whoops, looks like I accidentally committed the UniMath.wiki repo at the top level of this repo before you merged.

Can you make a new PR where you remove that file?
